US09422292B2
A solution of 7-bromo-3-methyl-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one (1.8 g, 7.1 mmol) and Lawesson's reagent (4.2 g, 10.4 mmol) in tetrahydrofuran (50 mL) was heated at 80° C. for 12 hours. The mixture was concentrated in vacuo. To the residue was added water (50 mL), extracted with ethyl acetate (50 mL×3). The combined layers were washed with brine (50 mL). The organic phase was dried over anhydrous sodium sulfate, filtered and concentrated to give a crude product, which was purified by column chromatography (silica gel, petroleum ether/ethyl acetate=5:1) to afford 7-bromo-3-methyl-4,5-dihydro-1H-benzo[b][1,4]diazepine-2(3H)-thione (1.5 g, 79%).

reactant | 7-bromo-3-methyl-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one | 7.1 mmol, 1.8 g | BrC1=CC2=C(NC(C(CN2)C)=O)C=C1 | C10H11BrN2O
reactant | Lawesson's reagent | 10.4 mmol, 4.2 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 7-bromo-3-methyl-4,5-dihydro-1H-benzo[b][1,4]diazepine-2(3H)-thione | 1.5 g, 79% | BrC1=CC2=C(NC(C(CN2)C)=S)C=C1 | C10H11BrN2S
